US07951811B2
Under nitrogen atmosphere, 3-cyanomethyl-pentanedioic acid dimethyl ester (212 g) was added to a suspension of LiAlH4 (50.0 g) in THF (1.8 L) at −20° C. After stirring for 30 min., H2O (200 mL) was slowly added to the reaction mixture. The insoluble material was removed by filtration and the filtrate was concentrated under reduced pressure to obtain 5-hydroxy-3-(2-hydroxy-ethyl)-pentanenitrile (131 g). 1H NMR (200 MHz, CDCl3) δ ppm 1.38-1.91 (m, 4 H) 1.98-2.36 (m, 1 H) 2.50 (d, J=5.71 Hz, 2 H) 3.51-3.90 (m, 4 H).

reactant | 3-cyanomethyl-pentanedioic acid dimethyl ester | 212 g | COC(CC(CC(=O)OC)CC#N)=O | C9H13NO4
reactant | LiAlH4 | 50.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 200 mL | O | H2O
solvent | THF | 1.8 L | C1CCOC1 | C4H8O
product | 5-hydroxy-3-(2-hydroxy-ethyl)-pentanenitrile | 131 g | OCCC(CC#N)CCO | C7H13NO2
